US06826033B2
To a solution of tert-butyl (S)-4-[4-(benzoylamino)benzyl]-2,2-dimethyl-1,3-oxazolidine-3-carboxylate (690 mg) in methanol (20 ml) was added 4N hydrogen chloride in ethyl acetate (5 ml) at room temperature, and the solution was stirred at the same temperature for 4 hours. The mixture was evaporated in vacuo, and the residue was partitioned between chloroform and saturated sodium bicarbonate solution. The organic layer was separated, washed with brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated to give (S)-N-[4-(2-amino-3-hydroxypropyl)phenyl]benzamide (250 mg) as a colorless solid.

reactant | tert-butyl (S)-4-[4-(benzoylamino)benzyl]-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 690 mg | C(C1=CC=CC=C1)(=O)NC1=CC=C(C[C@@H]2N(C(OC2)(C)C)C(=O)OC(C)(C)C)C=C1 | C24H30N2O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (S)-N-[4-(2-amino-3-hydroxypropyl)phenyl]benzamide | 250 mg | N[C@@H](CC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O)CO | C16H18N2O2
